US05872136
Step E: 1-(2-Phenylpyrid-5-ylmethyl)-5-(4-cyanobenzyl) imidazole hydrochloride salt
To a solution of 2-phenyl-5-hydroxymethylpyridine (264 mg, 1.43 mmol) and diisopropylethylamine (0.522 mL, 3.00 mmol) in dichloromethane (10 mL) at -78° C. was added trifluoromethanesulfonic anhydride (0.252 mL, 1.50 mmol) and the mixture stirred at -78° C. for 15 minutes. To this mixture was added a solution of 1-trityl-4-(4-cyanobenzyl)imidazole (608 mg, 1.43 mmol) in dichloromethane (9 mL). The mixture was allowed to warm to ambient temperature and stirred for 16 hours. The solvent was evaporated in vacuo. The residue was dissolved in methanol (15 mL), heated at reflux for 1 hour, and the solvent evaporated in vacuo. The residue was partitioned between dichloromethane and sat. aq. NaHCO3 solution. The organic layer was dried, (Na2SO4) and the solvent evaporated in vacuo. The residue was chromatographed (Silica gel, 0-5% NH4OH in CH2Cl2). The amine was converted to the HCl salt by treatment with 1.0M HCl in aqueous acetonitrile. Evaporation of the solvent in vacuo afforded the title compound as a white solid. FAB MS 351 (MH+)

reactant | 2-phenyl-5-hydroxymethylpyridine | 1.43 mmol, 264 mg | C1(=CC=CC=C1)C1=NC=C(C=C1)CO | C12H11NO
reactant | diisopropylethylamine | 3.00 mmol, 0.522 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 1.50 mmol, 0.252 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-trityl-4-(4-cyanobenzyl)imidazole | 1.43 mmol, 608 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC1=CC=C(C=C1)C#N | C30H23N3
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | 1-(2-Phenylpyrid-5-ylmethyl)-5-(4-cyanobenzyl) imidazole hydrochloride salt | Cl.C1(=CC=CC=C1)C1=NC=C(C=C1)CN1C=NC=C1CC1=CC=C(C=C1)C#N | InChI=1S/C23H18N4.ClH/c24-13-19-8-6-18(7-9-19)12-22-15-25-17-27(22)16-20-10-11-23(26-14-20)21-4-2-1-3-5-21;/h1-11,14-15,17H,12,16H2;1H
